US07820665B2
Step D. N-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2,2,2-trifluoroacetamide
To a solution of 2-(3-chloro-6-(tosylimino)pyridazin-1(6H)-yl)acetamide (80 mg, 0.23 mmol) in 5 mL dry DCM was added TFAA (0.8 mL) and the solution was refluxed for 3 h. The solution was concentrated and the residue was taken up in ethyl acetate and washed with sat. sodium bicarbonate. The organic layer was dried over sodium sulfate and concentrated to afford the title compound (60 mg, 61%). 1H NMR (CDCl3, 300 MHz): δ 7.18 (d, 1H), 7.8 (d, 1H), 8.5 (s, 1H), 10.4 (br, 1H).

reactant | 2-(3-chloro-6-(tosylimino)pyridazin-1(6H)-yl)acetamide | 0.23 mmol, 80 mg | ClC1=NN(C(C=C1)=NS(=O)(=O)C1=CC=C(C)C=C1)CC(=O)N | C13H13ClN4O3S
reactant | TFAA | 0.8 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2,2,2-trifluoroacetamide | 60 mg, 61% | ClC=1C=CC=2N(N1)C=C(N2)NC(C(F)(F)F)=O | C8H4ClF3N4O
